US04152442
2-Amino-5-methyl-1,3,4-thiadiazole (15 g, 0.13 mole) was treated with isobutyric anhydride (70 ml). The reaction mixture was stirred and heated to reflux in an oil bath at 180°-200° C. for 11/2 hours. The excess anhydride was distilled off under reduced pressure and the solid residue was recrystallised from ethyl acetate to give N-(5-methyl-1,3,4-thiadiazole-2-yl)-2-methylpropanamide as golden needles.

reactant | 2-Amino-5-methyl-1,3,4-thiadiazole | 0.13 mole, 15 g | NC=1SC(=NN1)C | C3H5N3S
reactant | isobutyric anhydride | 70 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | N-(5-methyl-1,3,4-thiadiazole-2-yl)-2-methylpropanamide | CC1=NN=C(S1)NC(C(C)C)=O | C7H11N3OS
